US08460445B2
Synthesis of N-(2-mercaptoethyl)-2-ethylhexanamide
22.7 g of 2-mercaptoethylamine hydrochloride (0.2 mol) and 32.4 g of triethylamine (0.32 mol) were introduced in suspension in 130 ml of dichloromethane at 0° C.-5° C. Over the course of 25 minutes, 16.8 g of 2-ethylhexanoyl chloride (0.1 mol) were added dropwise. The batch was stirred at 0° C. to 5° C. for 1 hour, at 40° C. for 1.5 hours, and then at room temperature for 12 hours. 70 ml of saturated ammonium chloride solution were added and a phase separation was carried out. This was repeated twice and the organic phases were combined, dried over sodium sulfate, and freed of their solvent under reduced pressure. The residue obtained was purified by column chromatography (97 toluene:3 methanol).

reactant | 2-mercaptoethylamine hydrochloride | 0.2 mol, 22.7 g | Cl.SCCN
reactant | triethylamine | 0.32 mol, 32.4 g | C(C)N(CC)CC | C6H15N
reactant | 2-ethylhexanoyl chloride | 0.1 mol, 16.8 g | C(C)C(C(=O)Cl)CCCC | C8H15ClO
reactant | ammonium chloride | 70 ml | [Cl-].[NH4+]
solvent | dichloromethane | 130 ml | ClCCl | CH2Cl2
product | N-(2-mercaptoethyl)-2-ethylhexanamide | SCCNC(C(CCCC)CC)=O | C10H21NOS
